US07439379B2
To a solution of 2-(2,3,4,5-tetramethylcyclopentadienyl)benzaldehyde (2.26 g, 10.0 mmol) in ethanol (29.0 mL) was added sodium borohydride (0.42 g, 11.0 mmol) at room temperature and the mixture was stirred for 3 hrs. To the reaction mixture solution were added toluene (20.0 mL) and deionized water (20.0 mL) to separate an organic layer and an aqueous layer. The organic layer was dried over sodium sulfate and the solvent was then distillted off to give 2-(2,3,4,5-tetramethylcyclopentadienyl)benzylalcohol (2.23 g, yield 96.0%) as a pale oily substance.

reactant | 2-(2,3,4,5-tetramethylcyclopentadienyl)benzaldehyde | 10.0 mmol, 2.26 g | CC=1C(C(=C(C1C)C)C)C1=C(C=O)C=CC=C1 | C16H18O
reactant | sodium borohydride | 11.0 mmol, 0.42 g | [BH4-].[Na+]
reactant | toluene | 20.0 mL | C1(=CC=CC=C1)C | C7H8
reactant | water | 20.0 mL | O | H2O
solvent | ethanol | 29.0 mL | C(C)O | C2H6O
product | 2-(2,3,4,5-tetramethylcyclopentadienyl)benzylalcohol | 2.23 g, yield 96.0% | CC=1C(C(=C(C1C)C)C)C1=C(CO)C=CC=C1 | C16H20O
